2153-03-30 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Holding enoxaparin for bleeding.
   - Gave 20mg IV furosemide in pm.
   - Increased metoprolol from 12.5mg to 25mg [**Hospital1 7**].
   S: No CP, SOB, palpitations. No hip pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-3-29**] 10:00 PM
   Vancomycin - [**2153-3-30**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-3-29**] 09:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-30**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 115 (82 - 122) bpm
   BP: 129/64(78) {57/33(48) - 129/65(78)} mmHg
   RR: 36 (25 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,840 mL
                                                                    250 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,000 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    300 mL
   Urine:
                                                                  2,850 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   GEN: NAD
   HEENT: MM slightly dry
   NECK: JVD not appreciated
   COR: RRR, [**3-16**] holosystolic M at apex
   PULM: Crackles at bases halfway up bilaterally
   ABD: NABS. Soft, NTND.
   EXT:  R thigh mildly tense, not TTP, RLE with 3+ edema, LLE with 1+
   thigh edema, 2+ DP pulses
   Labs / Radiology
   278 K/uL
   8.1 g/dL
   122 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   30 mg/dL
   109 mEq/L
   145 mEq/L
   25.2 %
   15.5 K/uL
        [image002.jpg]
                             [**2153-3-28**]  03:32 PM
                             [**2153-3-28**]  09:25 PM
                             [**2153-3-29**]  04:15 AM
                             [**2153-3-29**]  01:40 PM
                             [**2153-3-29**]  09:16 PM
   WBC
   17.5
   15.3
   Hct
   23.2
   25.4
   25.1
   24.6
   26.1
   Plt
   322
   Cr
   1.0
   0.9
   Glucose
   131
   121
   Other labs: PT / PTT / INR:17.6/28.3/1.6, ALT / AST:18/20, Alk Phos / T
   Bili:44/3.2, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:2.0 %, Eos:2.0 %, Albumin:2.4 g/dL, LDH:443 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   86 y/o male with HTN/Dyslipidema h/o rutured AAA in 02 who developed
   post-operative MI with CK 1516 (rising) with likely culprit of LCx
   given precordial/lateral ECG changes and angiographic findings. He has
   significant MR (new/severe) that is likely ischemic in nature,
   resulting in significant heart failure requiring mechanical
   ventilation, IABP now weaned off pressor and IABP support but
   hypotensive with R hip hematoma.
   #. Hypotension: Most likely from bleed and possibly from poor forward
   flow and decompensated heart failure.  Improved last 24 hours with SBPs
   100s after transfusion 2 units PRBC. HCT now stable with inadequate
   bump 21.9->25 but stable x 12 hours. Has tolerated diuresis as well
   with lasix to keep net negative.
   - continue to monitor
   - transfuse HCT <25
   - Follow HCTs q8 hours
   -cautious diuresis
   # Anemia: Consulted heme as detailed in note. Anemia likely
   multifactorial secondary to hematoma, possible component of hemolysis.
   They recommended stopping anticoagulation. Serial exams to monitor
   hematoma
   - holding anticoagulation and DVY ppx; restart lovenox 40 SC daily when
   stable
   - folic acid 5mg po daily
   - Check daily hemolysis labs and trend
   - consider repeat CT if change in exam or symptoms
   # Tachycardia: HR 110s improved to 90s after transfusion. Was likely
   [**2-12**] anemia.
   # R hip hematoma: Likely source of anemia. HCT stable last 12 hours.
   Ortho would not intervene unless sciatic nerve impingement
   - serial exams to monitor for foot drop
   #. CAD/NSTEMI:
   s/p revascularization with Cypher (DES) stents x 2 to LCx with peak CK
   2964 MB 220.  Has remained chest pain free.
    - Continue Plavix 75, ASA 325, 80 lipitor; holding ACE
   -  restart low dose bb
   #. Fever/Leukocytosis: WBC trending down since [**3-24**]. had low grade
   fever yesterday 100.8 but was after transfusion. Currently on
   vanc/zosyn for VAP course given multifocal PNA on chest CT but no cx
   data to guide management
   - continue vanc/zosyn; vanc changed to 1500 q12 since subtherpaeutic
   - follow-up cultures, all NGTD
   -Check sputum cx, C diff has been negative as well
   -repeat blood cx
   -consider tap effusions if still present
   #. AMS/delirium:
   Improved. Thought likely related to medication affects and  likely
   worsened with possible pneumonia and hypernatremia contributing
   - continue to treat infection with 7 day course of levofloxacin, expand
   abx as above
   - hold further sedating meds
   - Pain control with Tylenol for s/p hip repair.  Would avoid narcotics.
   4. Hypernatremia
   - free water
   5. Acute systolic CHF and acute MR:
   EF 35%
   Likely related to ischemic MR plus inferior/inferiolateral wall  motion
   abnormalities with possible pap muscle ischemia and now s/p IABP
   inserted to help with afterload reduction to improve MR and increase
   coronary perfusion pressure through new stents.
   - aim to keep negative 1.5 to 2 L today as BP tolerates
   6. AORTIC STENOSIS
    - Gradient by echo was mean of 20, echo suggested significant AS
   8. ATRIAL FIBRILLATION
   Presently in sinus, no afib/flutter overnight, improved rate control
   - Anticoagulation with lovenox SC BID
   - continue metoprolol TID
   9. s/p Total Hip
    - restart dvt prophylaxis with lovenox topmorr
   - Pboots for now
    - per OSH ortho, should be WBAT with posterior precautions
   10. Anemia: Pt with dropping HCT post-op. Concern for bleed (RP since
   s/p cath, from hip post op, or GI given black NGT drainage).  Hct
   stable and bumped approx 2 after tranfusion.
   - consider scan hip/abd/pelvis if HCT continues to trend down
   - follow daily
   11. RESPIRATORY FAILURE [**2-12**] CHF
   - Extubated on [**3-17**], doing well
   #. PPX:, Bowel regimen
   #. FEN : Hyper Na as above. Lyte repletion as needed.
   - nectar thick liquids, ground solids, PO meds crushed with puree; 1:1
   supervision
   ICU Care
   Glycemic Control:  not needed
   Lines:
   PICC Line - [**2153-3-28**] 01:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: not needed
   Communication:  with patient, HCP (info in chart)
   Code status: full
   Disposition: pending respiratory improvement

2153-04-02 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Bedside US showed L sided pleural effusion, pt refusing
   thoracentesis.
   S: No complaints. Denies CP, SOB, cough, f/c.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-30**] 11:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-3-31**] 02:06 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2153-4-1**] 07:42 AM
   Enoxaparin (Lovenox) - [**2153-4-1**] 07:42 AM
   Furosemide (Lasix) - [**2153-4-1**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-2**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 103 (84 - 126) bpm
   BP: 95/49(57) {84/37(48) - 154/115(120)} mmHg
   RR: 38 (23 - 45) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 101.5 kg
   Height: 70 Inch
                  Total In:
                                                                  2,314 mL
                                                                    371 mL
   PO:
                                                                    560 mL
                  TF:
                                                                  1,294 mL
                                                                    371 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    720 mL
   Urine:
                                                                  3,130 mL
                                                                    720 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,116 mL
                                                                   -349 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   GEN: Alert, oriented to hospital but not hospital name or date,
   tachypneic, NAD
   HEENT: MM dry
   NECK: JVP not elevated
   COR: Reg, tachy. [**3-16**] holosystolic M at apex
   PULM: Diffuse crackles (greater at bases) bilaterally.
   ABD: NABS. Soft, NTND.
   EXT:  R thigh swelling unchanged, not TTP, RLE with 2+ edema, LLE with
   trace thigh edema, 2+ DP pulses
   Labs / Radiology
   252 K/uL
   8.5 g/dL
   139 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.5 mEq/L
   32 mg/dL
   104 mEq/L
   142 mEq/L
   26.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2153-3-29**]  04:15 AM
                             [**2153-3-29**]  01:40 PM
                             [**2153-3-29**]  09:16 PM
                             [**2153-3-30**]  05:43 AM
                             [**2153-3-30**]  05:29 PM
                             [**2153-3-31**]  05:31 AM
                             [**2153-3-31**]  05:20 PM
                             [**2153-4-1**]  05:38 AM
                             [**2153-4-1**]  03:26 PM
                             [**2153-4-2**]  04:08 AM
   WBC
   15.3
   15.5
   14.4
   14.7
   14.5
   Hct
   25.1
   24.6
   26.1
   25.2
   25.6
   25.3
   26.7
   27.7
   26.9
   Plt
   322
   278
   265
   277
   252
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.7
   0.7
   Glucose
   131
   121
   122
   129
   133
   132
   146
   138
   139
   Other labs: PT / PTT / INR:16.9/27.4/1.5, ALT / AST:18/20, Alk Phos / T
   Bili:44/1.9, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:2.0 %, Eos:2.0 %, Albumin:2.4 g/dL, LDH:451 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   86 y/o male with R hip surgery and post-op NSTEMI with new MR with 2
   DES to Lcx and required balloon pump, course complicatd by VAP and R
   hip bleed, now more medically stable.
   Shortness of breath
   Multifactorial: resolving PNA, volume overload pleural effusion.
   - No additional abx for now.
   - Neg 1-2L today
   - Incentive spirometer
   - Offer thoracentesis
   Tachycardia.  Likely from anemia.
   - continue metoprolol 25mg PO tid . Uptitrate as bp allows.
   CHF and new MR:
   EF 35%.  Volume overloaded.  BP has improved with diuresis
   - continue to diurese as BP allows (goal neg [**1-12**] liter)
   - start captopril today
   R hip bleed. Stable and resolving.  From recent surgery and
   anticoagulation.
   - folic acid daily
   - continue prophylactic dose Lovenox
   VAP. s/p 8 day course of vanco/zosyn ([**Date range (1) 6427**]. Leukocytosis
   trending down and no fever.  Also has large bilateral pleural
   effusions.
   CAD: Nstemi after hip surgery s/p DES to Lcx x 2.
   - continue asa, plavix, lipitor and metoprolol (uptitrating as
   tolerated)
   - start ace-i
   Atrial fibrillation.  Currently sinus.
   - anticoagulate when his hip bleed is under control
   - continue metoprolol
   ICU Care
   Nutrition: Tube feeds, ground regular diet with supplemental shakes
   Glycemic Control:
   Lines:
   PICC Line - [**2153-3-28**] 01:05 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Chief Complaint: Feels "fine"
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                                History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-30**] 11:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-3-31**] 02:06 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2153-4-2**] 08:00 AM
   Lansoprazole (Prevacid) - [**2153-4-2**] 08:00 AM
   Furosemide (Lasix) - [**2153-4-2**] 09:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea, Wheeze
   Flowsheet Data as of  [**2153-4-2**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36
C (96.8
   HR: 92 (84 - 117) bpm
   BP: 100/57(67) {84/37(48) - 154/115(120)} mmHg
   RR: 36 (27 - 45) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 101.5 kg
   Height: 70 Inch
                  Total In:
                                                                  2,314 mL
                                                                    571 mL
   PO:
                                                                    560 mL
                  TF:
                                                                  1,294 mL
                                                                    371 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,215 mL
   Urine:
                                                                  3,130 mL
                                                                  1,215 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,116 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: B, Rhonchorous: B)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Thigh hematoma stable
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   252 K/uL
   139 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.5 mEq/L
   32 mg/dL
   104 mEq/L
   142 mEq/L
   26.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2153-3-29**]  04:15 AM
                             [**2153-3-29**]  01:40 PM
                             [**2153-3-29**]  09:16 PM
                             [**2153-3-30**]  05:43 AM
                             [**2153-3-30**]  05:29 PM
                             [**2153-3-31**]  05:31 AM
                             [**2153-3-31**]  05:20 PM
                             [**2153-4-1**]  05:38 AM
                             [**2153-4-1**]  03:26 PM
                             [**2153-4-2**]  04:08 AM
   WBC
   15.3
   15.5
   14.4
   14.7
   14.5
   Hct
   25.1
   24.6
   26.1
   25.2
   25.6
   25.3
   26.7
   27.7
   26.9
   Plt
   322
   278
   265
   277
   252
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.7
   0.7
   Glucose
   131
   121
   122
   129
   133
   132
   146
   138
   139
   Other labs: PT / PTT / INR:16.9/27.4/1.5, ALT / AST:18/20, Alk Phos / T
   Bili:44/1.9, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:2.0 %, Eos:2.0 %, Albumin:2.4 g/dL, LDH:451 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   - ongoing significant O2 requirement, but no fevers or rebound
   leukocytosis
   - holding off on restarting antibiotics
   - will address L pleural effusion again (pt refused thoracentesis
   yesterday)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   - s/p PCI
   - stable, continue MedRx
 ATRIAL FIBRILLATION (AFIB)
   - NSR
 H/O HEART FAILURE (CHF), SYSTOLIC, ACUTE
   - volume overloaded, will continue diuresis
 AORTIC STENOSIS
   - stable
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - Hct stable despite ASA, Plavix and enoxaparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2153-3-28**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2153-4-2**] 09:59 ------

2153-04-08 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Restarted TFs.
   - Had 10 sec episode of AFib.
   - Gave 40mg IV lasix x1.
   - ID recs: d/c levoflox, then d/c pip-tazo if afebrile/improved WBC for
   next 24-48 hrs. Consider CTA for r/o PE.
   S: No CP, SOB, lightheadedness, palpitations.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-6**] 06:00 AM
   Levofloxacin - [**2153-4-6**] 10:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-7**] 12:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-8**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 91 (85 - 111) bpm
   BP: 85/41(50) {83/38(37) - 112/80(101)} mmHg
   RR: 27 (23 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95.8 kg (admission): 101.5 kg
   Height: 70 Inch
                  Total In:
                                                                    701 mL
                                                                    119 mL
   PO:
                  TF:
                                                                    170 mL
                                                                    119 mL
   IVF:
                                                                    331 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    425 mL
   Urine:
                                                                  2,105 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,404 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   GEN: Alert, NAD, pleasant
   HEENT:  MM slightly dry
   NECK: supple, JVP 7 cm
   COR: Overall RRR, although occasional premature beats. S1S2+,  [**3-16**]
   holosystolic M at apex
   PULM: Scattered crackles bilaterally, improved aeration.
   ABD: NABS. Soft, NTND.
   EXT: R thigh swelling stable, not TTP, RLE with trace edema, LLE
   without edema. 2+ LE pulses (R>L). WWP.
   Labs / Radiology
   300 K/uL
   8.6 g/dL
   97 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   30 mg/dL
   104 mEq/L
   142 mEq/L
   27.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2153-4-2**]  04:08 AM
                             [**2153-4-2**]  04:45 PM
                             [**2153-4-3**]  04:30 AM
                             [**2153-4-3**]  05:00 PM
                             [**2153-4-4**]  06:47 AM
                             [**2153-4-5**]  04:10 AM
                             [**2153-4-6**]  04:18 AM
                             [**2153-4-6**]  07:18 AM
                             [**2153-4-6**]  05:00 PM
                             [**2153-4-7**]  05:26 AM
   WBC
   14.5
   13.5
   12.6
   11.6
   10.7
   10.0
   Hct
   26.9
   26.2
   26.0
   26.2
   26.6
   27.4
   Plt
   [**Telephone/Fax (2) 6584**]
   Cr
   0.7
   0.8
   0.7
   0.8
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   34
   Glucose
   139
   120
   127
   130
   124
   92
   95
   104
   97
   Other labs: PT / PTT / INR:16.7/30.3/1.5, ALT / AST:18/20, Alk Phos / T
   Bili:44/1.9, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:2.0 %, Eos:2.0 %, Albumin:2.4 g/dL, LDH:448 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   86 y/o male with R hip surgery and post-op NSTEMI with new MR with 2
   DES to Lcx and required balloon pump, course complicatd by VAP and R
   hip bleed, now more medically stable.
   Pneumonia: Finished 8 day course of vanc/zosyn already.  Last fever
   [**4-3**] 100.8.  Likely due to recurrent aspiration. White count
   normalized.
   - Stop levoflox today
   - Continue zosyn for now, to complete 8d course [**4-9**]
   - chest PT, IS
   - f/u cultures
   - Appreciate ID and pulmonary recs
   - NPO with TF via PEG
   CHF and new MR: EF 35%.  Diuresing and seems clinically euvolemic.
   - continue metoprolol
   - follow I/Os with goal to keep even today
   - holding ace for marginal BP
   Nutrition: Patient NPO getting tube feeds with high suspicion of
   aspiration causing multifocal pneumonia.
   - Cont TFs via PEG
   Tachycardia.  Likely from infection, HR mainly in 90s. Still with PVCs,
   PACs.
   - Continue metoprolol 25mg PO tid. No room to increase now due to BP,
   but consider in future if tolerates.
   R hip bleed. Stable and resolving.  From recent surgery and
   anticoagulation.
   - folic acid daily
   - continue prophylactic dose Lovenox
   Atrial fibrillation. Currently sinus, although brief run Afib
   yesterday.
   - restarted coumadin; keep lovenox for bridge
   - continue metoprolol
   CAD: Nstemi after hip surgery s/p DES to Lcx x 2.
   - continue asa, plavix, lipitor,  metoprolol
   - continue to hold captopril
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-8**] 03:28 AM 20 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2153-3-28**] 01:05 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 350**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Plan:
   1. D/c levofloxacin
   2. Continue warfarin, aspirin and clopidogrel
   3. Physical therapy
   4. Incentive spirometry
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2153-4-8**] 09:35 ------